US04632927
THE PREPARATION OF 3-AMINO-1-METHYL-5-[3-(1-MORPHOLINO-5-ISOQUINOLYLOXY)PROPYLAMINO]-1H-1,2,4-TRIAZOLE
Methyl hydrazine (7.3 g) is added to a stirred suspension of 1-cyano-2-methyl-3-[3-(1-morpholino-5-isoquinolyloxy)propyl]pseudothiourea (11.56 g) in DMF (91.5 ml). The reaction mixture is stirred at 40° C. under nitrogen for 24 hrs and evaporated in vacuo resulting in a red oil which partially crystallizes on standing. The residue is dissolved in boiling acetonitrile (150 ml) and the hot solution treated with Darco G-60, filtered through Celite, concentrated and cooled. The precipitate is collected, washed with acetonitrile and dried in vacuo at elevated temperature. The dried precipitate is recrystallized from absolute ethanol, dried in vacuo at 75° C. affording the desired product as a powder, M.P. 178°-180° C. Elemental analysis indicates the product as a 1/4 hydrate.

reactant | Methyl hydrazine | 7.3 g | CNN | CH6N2
reactant | 1-cyano-2-methyl-3-[3-(1-morpholino-5-isoquinolyloxy)propyl]pseudothiourea | 11.56 g | C(#N)NC(SC)=NCCCOC1=C2C=CN=C(C2=CC=C1)N1CCOCC1 | C19H23N5O2S
solvent | DMF | 91.5 ml | CN(C)C=O | C3H7NO
product | 3-AMINO-1-METHYL-5-[3-(1-MORPHOLINO-5-ISOQUINOLYLOXY)PROPYLAMINO]-1H-1,2,4-TRIAZOLE | NC1=NN(C(=N1)NCCCOC1=C2C=CN=C(C2=CC=C1)N1CCOCC1)C | C19H25N7O2
